US05149630
1. Preparation of methyl thyroxinate hydrochloride
Thyroxine (1 g) was dissolved in the methanol/HCl, to which molecular sieve was added, and the mixture was left at room temperature overnight. The ester precipitates out with a yield of above 90%. After filtration, the product was washed with acetone and stored in a vacuum desiccator until use.

reactant | Thyroxine | 1 g | N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C15H11I4NO4
reactant | methanol HCl | CO.Cl
product | methyl thyroxinate hydrochloride | Cl.N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)OC | InChI=1S/C16H13I4NO4.ClH/c1-24-16(23)13(21)4-7-2-11(19)15(12(20)3-7)25-8-5-9(17)14(22)10(18)6-8;/h2-3,5-6,13,22H,4,21H2,1H3;1H/t13-;/m0./s1
